US07745452B2
To a solution of 2-amino-5-chlorobenzophenone (40 g, 172.7 mmol) in CH2Cl2 (175 μL) was added carbonyldiimidazole (30.8 g, 189.9 mmol). The reaction was heated to 45° C. for 16 h resulting in a white precipitate. The reaction was cooled in an ice bath and the precipitate collected by vacuum filtration and dried to give 39.3 g (69.9%) of N-(2-benzoyl-4-chlorophenyl)-1H-imidazole-1-carboxamide as a white solid. 1H NMR (CDCl3, 400 MHz) 8.66 (s, 1H); 7.46 (m, 4H); 7.25 (s, 1H); 7.19 (d, J=6.96 Hz, 2H); 7.15 (s, 1H); 6.94 (m, 2H); 6.76 (d, J=2.29 Hz, 1H). MS (Electrospray): m/z 348.0 (M+Na).

reactant | 2-amino-5-chlorobenzophenone | 172.7 mmol, 40 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | carbonyldiimidazole | 189.9 mmol, 30.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | CH2Cl2 | 175 μL | C(Cl)Cl | CH2Cl2
product | N-(2-benzoyl-4-chlorophenyl)-1H-imidazole-1-carboxamide | 39.3 g, 69.9% | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NC(=O)N1C=NC=C1 | C17H12ClN3O2
